US05371231
12.7 g (0.07 mol) of trichloroacetyl chloride are added dropwise to a suspension of 6.4 g (0.03 mol) of (E)-3-chloro-2-fluoro-cinnamamide oxime in 90 ml of chloroform and 6 ml (0.07 mol) of dry pyridine. During this process the temperature of the reaction mixture rises slightly. Stirring is subsequently continued for 1 hour, and the pyridine hydrochloride which separates out in this process is filtered off and washed with chloroform. The filtrate is concentrated in vacuo and the solid which remains is recrystallised. 5.0 g (48.7% of theory) of (E)-3-(3-chloro-2-fluoro-styryl)-5-tri-chloromethyl-1,2,4-oxadiazole are obtained.

reactant | trichloroacetyl chloride | 0.07 mol, 12.7 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | (E)-3-chloro-2-fluoro-cinnamamide oxime | 0.03 mol, 6.4 g | ClC=1C(=C(/C=C/C(N)=NO)C=CC1)F | C9H8ClFN2O
reactant | pyridine | 0.07 mol, 6 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | (E)-3-(3-chloro-2-fluoro-styryl)-5-tri-chloromethyl-1,2,4-oxadiazole | 5.0 g, 48.7% | ClC=1C(=C(/C=C/C2=NOC(=N2)C(Cl)(Cl)Cl)C=CC1)F | C11H5Cl4FN2O
